US04041079
In a mixture of 3 volume parts of dry acetone and 5 volume parts of dry ethanol, there is dissolved 0.075 part of 3,4-dihydro-2-amino-5,6-dimethoxy-1(2H)-naphthalenone hydrochloride. While the solution is held at 0° C. and with stirring, 0.080 part of the molecular compound of 1 mole of lithium cyanoborohydride and 2 moles of dioxane is added in small portions. After the addition has been completed, the mixture is stirred at 0° C. for 3 hours and, then, 1N hydrochloric acid is added in sufficient amounts to bring the pH to 2 or less. The acetone and ethanol are distilled off under reduced pressure and the residue is neutralized by the addition of a 5% aqueous solution of sodium hydrogen carbonate, after which the basic matter is extracted with ethyl ether. The ethyl ether layer is washed with water and dehydrated over anhydrous sodium sulfate. Then, dry hydrogen chloride gas is bubbled into the solution. The ethyl ether is distilled off and the residue is recrystallized from a mixture of ethanol and ethyl ether. The procedure gives 3,4-dihydro-2-isopropylamino-5,6-dimethoxy-1(2H)-naphthalenone hydrochloride. Melting point: 141°-157° C. (decomp).

reactant | 3,4-dihydro-2-amino-5,6-dimethoxy-1(2H)-naphthalenone hydrochloride | Cl.NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O
reactant | lithium cyanoborohydride | 1 mole | C(#N)[BH3-].[Li+]
reactant | dioxane | 2 moles | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 3,4-dihydro-2-isopropylamino-5,6-dimethoxy-1(2H)-naphthalenone hydrochloride | Cl.C(C)(C)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O | InChI=1S/C15H21NO3.ClH/c1-9(2)16-12-7-5-11-10(14(12)17)6-8-13(18-3)15(11)19-4;/h6,8-9,12,16H,5,7H2,1-4H3;1H
